US06849723B2
5′-O-tert-butyldiphenylsilyl-N6-benzoyl-2′-O-(2,3-dihydroxypropyl)-adenosine
3′-O-allyl-5′-O-tert-butyldiphenylsilyl-N6-benzoyl-adenosine (5.5 g, 8.46 mmol), 4-methylmorpholine N-oxide (1.43 g, 12.18 mmol) were dissolved in dioxane (45.42 mL). 4% aqueous solution of OSO4 (1.99 mL, 0.31 mmol) was added. The reaction mixture was protected from light and stirred for 3 hrs. Reaction was monitored by TLC (5% MeOH in CH2Cl2). Ethyl acetate (100 mL) was added and the resulting reaction mixture was washed with water (1×50 mL). Ethyl acetate layer was dried over anhydrous Na2SO4 and evaporated to get the title compound (5.9 g) and used for next step without purification. Rf 0.17 (5% MeOH in CH2Cl2)

reactant | 3′-O-allyl-5′-O-tert-butyldiphenylsilyl-N6-benzoyl-adenosine | 8.46 mmol, 5.5 g | C(C=C)O[C@H]1[C@H]([C@@H](O[C@@H]1CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12)O | C36H39N5O5Si
reactant | 4-methylmorpholine N-oxide | 12.18 mmol, 1.43 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | MeOH | CO | CH4O
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | dioxane | 45.42 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5′-O-tert-butyldiphenylsilyl-N6-benzoyl-2′-O-(2,3-dihydroxypropyl)-adenosine | 5.9 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12)OCC(CO)O)O | C36H41N5O7Si
